US07846928B2
Preparation of 1-(1-Methyl-4-{4-[3-(3-trifluoromethyl-phenyl)-ureido]-phenyl}-1H-pyrazolo[3,4-b]pyridin-6-yl)-cyclopropanecarboxylic acid ethyl ester
In analogy to GP 6, reaction of 210 mg of 1-(3-Amino-1-methyl-4-{4-[3-(3-trifluoromethyl-phenyl)-ureido]-phenyl}-1H-pyrazolo[3,4-b]pyridin-6-yl)-cyclopropanecarboxylic acid ethyl ester (0.39 mmol, 1 eq.) with 31 μL concentrated sulphuric acid and 64.6 mg sodium nitrite (0.94 mmol, 2.4 eq.) yielded 97 mg of the desired product (48% yield).

reactant | 1-(3-Amino-1-methyl-4-{4-[3-(3-trifluoromethyl-phenyl)-ureido]-phenyl}-1H-pyrazolo[3,4-b]pyridin-6-yl)-cyclopropanecarboxylic acid ethyl ester | 0.39 mmol, 210 mg, 1 eq. | C(C)OC(=O)C1(CC1)C1=CC(=C2C(=N1)N(N=C2N)C)C2=CC=C(C=C2)NC(=O)NC2=CC(=CC=C2)C(F)(F)F | C27H25F3N6O3
reactant | sulphuric acid | 31 μL | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 0.94 mmol, 64.6 mg, 2.4 eq. | N(=O)[O-].[Na+]
product | 1-(1-Methyl-4-{4-[3-(3-trifluoromethyl-phenyl)-ureido]-phenyl}-1H-pyrazolo[3,4-b]pyridin-6-yl)-cyclopropanecarboxylic acid ethyl ester | 97 mg, 48% yield | C(C)OC(=O)C1(CC1)C1=CC(=C2C(=N1)N(N=C2)C)C2=CC=C(C=C2)NC(=O)NC2=CC(=CC=C2)C(F)(F)F | C27H24F3N5O3
